US09145407B2
4-[2-(1-Azetidin-3-yl-1H-pyrazol-5-yl)-5-chloro-2-fluoro-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-5-ylbenzenesulfonamide
tert-Butyl 3-{5-[5-trifluoromethyl-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,3,4-thiadiazol-5-yl)amino]sulfonyl}-5-fluorophenoxy)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate (Preparation 35, 590 mg, 0.72 mmol) was dissolved in dichloromethane (10 mL). Trifluoroacetic acid (2 mL) was added dropwise and the solution stirred at ambient temperature for 2.5 hours. The reaction mixture was concentrated in vacuo and the residue slurried in methanol (20 mL) before concentrating in vacuo again. This was repeated twice more. Finally the residue was again slurried in methanol (20 mL) and the solid removed by filtration. The filtrate was concentrated in vacuo to give a foam. Water (50 mL) was added followed by 0.880 aqueous ammonia (5 mL) to give a white solid which was collected by filtration, washed with methanol and dried in vacuo to afford the title compound as a white solid (360 mg, 88%).

reactant | tert-Butyl 3-{5-[5-trifluoromethyl-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,3,4-thiadiazol-5-yl)amino]sulfonyl}-5-fluorophenoxy)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate | 0.72 mmol, 590 mg | FC(C=1C=CC(=C(C1)C1=CC=NN1C1CN(C1)C(=O)OC(C)(C)C)OC1=C(C=C(C(=C1)F)S(=O)(=O)N(C1=NN=CS1)CC1=C(C=C(C=C1)OC)OC)Cl)(F)F | C35H33ClF4N6O7S2
reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 50 mL | O | H2O
reactant | ammonia | 5 mL | N | H3N
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[2-(1-Azetidin-3-yl-1H-pyrazol-5-yl)-5-chloro-2-fluoro-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-5-ylbenzenesulfonamide | 360 mg, 88% | N1CC(C1)N1N=CC=C1C1(C(OC2=CC=C(C=C2)S(=O)(=O)NC2=NN=CS2)C=C(C(=C1)C(F)(F)F)Cl)F | C21H17ClF4N6O3S2
